US08809304B2
(35-1) Synthesis of 5-bromo-2-octyloxybenzaldehyde (Compound 35-1)
To a suspension of 5-bromosalicylaldehyde (5.00 g) and potassium carbonate (10.3 g) in N,N-dimethylformamide (50 ml) was added octyl bromide (4.52 ml), and the mixture was stirred at room temperature for 1.5 hr, and further at 50° C. for 3.5 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine 3 times, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure to give the object product (7.72 g) as a white solid.

reactant | 5-bromosalicylaldehyde | 5.00 g | BrC1=CC=C(C(C=O)=C1)O | C7H5BrO2
reactant | potassium carbonate | 10.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | octyl bromide | 4.52 ml | C(CCCCCCC)Br | C8H17Br
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 5-bromo-2-octyloxybenzaldehyde | 7.72 g | BrC=1C=CC(=C(C=O)C1)OCCCCCCCC | C15H21BrO2
